US08563575B2
1-ethyl-3-[1-(1,3-thiazol-2-yl)-1H-indol-5-yl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
A mixture of 3-(2,3-dihydro-1H-indol-5-yl)-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (75 mg), 2-chlorothiazole (48.0 mg) and Cs2CO3 (174 mg) in DMF (3 mL) was stirred at 100° C. for 3 days, treated with saturated NaHCO3 solution, and extracted with AcOEt. The organic layer was separated, dried over MgSO4 and concentrated in vacuo. The residue was purified by prep. HPLC and crystallized from AcOEt/Hexane to give the title compound as white crystals (27.0 mg).

reactant | 3-(2,3-dihydro-1H-indol-5-yl)-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 75 mg | N1CCC2=CC(=CC=C12)N1C(N(C=2C1=NC=CC2)CC)=O | C16H16N4O
reactant | 2-chlorothiazole | 48.0 mg | ClC=1SC=CN1 | C3H2ClNS
reactant | Cs2CO3 | 174 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-ethyl-3-[1-(1,3-thiazol-2-yl)-1H-indol-5-yl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 27.0 mg | C(C)N1C(N(C2=NC=CC=C21)C=2C=C1C=CN(C1=CC2)C=2SC=CN2)=O | C19H15N5OS
